US03971819
A solution of n-butyl-4-(4-benzyloxyphenoxy)-3-nitro-5-sulphamyl-benzoate (7.3 g) in 1N sodium hydroxide (120 ml) was heated on a steam bath for 45 minutes. After cooling and acidification by addition of 4N hydrochloric acid, the precipitated 4-(4-benzyloxyphenoxy)-3-nitro-5-sulphamyl-benzoic acid was isolated by filtration and recrystallized from aqueous ethanol. After drying, the compound was obtained with a melting point of 247°C.

reactant | n-butyl-4-(4-benzyloxyphenoxy)-3-nitro-5-sulphamyl-benzoate | 7.3 g | C(CCC)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C24H24N2O8S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | sodium hydroxide | 1N, 120 ml | [OH-].[Na+]
product | 4-(4-benzyloxyphenoxy)-3-nitro-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)[N+](=O)[O-])C=C1 | C20H16N2O8S
